US04935424
A solution of 17.9 g of 6-bromo-4-hexanone and 23.7 g of 1-(2-pyrimidinyl)piperazine dihydrochloride in 500 ml of ethanol and 100 ml of dimethylformamide containing 42 g of sodium bicarbonate is refluxed for 12 hours. The mixture is filtered through Celite, evaporated in vacuo, and the residue chromatographed over silica gel to give 15 g of 6-[4-(2-pyrimidinyl)-1-piperazinyl]-2-hexanone; mp 44°-47° C.

reactant | 6-bromo-4-hexanone | 17.9 g | BrCCC(CCC)=O | C6H11BrO
reactant | 1-(2-pyrimidinyl)piperazine dihydrochloride | 23.7 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | dimethylformamide | 100 ml, 42 g | CN(C=O)C | C3H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 6-[4-(2-pyrimidinyl)-1-piperazinyl]-2-hexanone | 15 g | N1=C(N=CC=C1)N1CCN(CC1)CCCCC(C)=O | C14H22N4O
